US08729061B2
Step C2: (2S,4R)-1-tert-butyl 2-methyl 4-(2-chlorophenylthio)pyrrolidine-1,2-dicarboxylate
Under an atmosphere of argon, (2S,4S)-1-tert-butyl 2-methyl 4-(3-nitrophenylsulfonyloxy)pyrrolidine-1,2-dicarboxylate (8.5 g, 19.7 mmol, Eq: 1.00) was combined with propionitrile (82.0 ml) to give a light brown solution. Then 2-chlorobenzenethiol (4.28 g, 3.38 ml, 29.6 mmol, Eq: 1.50) and triethylamine (4.00 g, 5.5 ml, 39.5 mmol, Eq: 2.00) were added dropwise. The reaction was stirred overnight at reflux (100° C.). The reaction was cooled to room temperature, and poured in 50 ml Na2CO3 solution (10%), and extracted with 2×100 ml ethyl acetate. The organic layers were washed with 50 ml HCl 0.1M and 50 ml satd. NaCl solution. The organic layer was stirred over Na2SO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography (70 g column, from 100% to 80% heptane in ethyl acetate). The title compound was obtained as a yellow oil (5.7 g, 77.6%, MS (m/e)=372.1 [M+H+]).

reactant | (2S,4S)-1-tert-butyl 2-methyl 4-(3-nitrophenylsulfonyloxy)pyrrolidine-1,2-dicarboxylate | 19.7 mmol, 8.5 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H22N2O9S
reactant | propionitrile | 82.0 ml | C(CC)#N | C3H5N
reactant | 2-chlorobenzenethiol | 29.6 mmol, 3.38 ml, 4.28 g | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | triethylamine | 39.5 mmol, 5.5 ml, 4.00 g | C(C)N(CC)CC | C6H15N
solvent | Na2CO3 | 50 ml | C(=O)([O-])[O-].[Na+].[Na+]
product | (2S,4R)-1-tert-butyl 2-methyl 4-(2-chlorophenylthio)pyrrolidine-1,2-dicarboxylate | ClC1=C(C=CC=C1)S[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H22ClNO4S
